### PR TITLE
[Merged by Bors] - feat(Logic/Function/Const): subsingleton range and injective lemmas

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Function/Const.lean [hunk 1]
```diff
@@ -116,4 +116,20 @@ theorem _root_.Setoid.ker_eq_top {α β : Type*} {f : α → β} :
     Setoid.ker f = ⊤ ↔ IsConst f :=
   Setoid.ker f |>.eq_top_iff
 
+@[simp]
+theorem _root_.Set.subsingleton_range_iff {β : Type*} {f : α → β} :
+    (Set.range f).Subsingleton ↔ f.IsConst := by
+  simp [Set.Subsingleton, isConst_iff]
+
+theorem subsingleton_iff_isConst_and_injective {f : α → β} :
```
Comment (plp127) [inline Mathlib/Logic/Function/Const.lean]: It looks like `f` is not inferable from the left hand side, would making `f` explicit here be an option?

Comment (SnirBroshi) [reply Mathlib/Logic/Function/Const.lean]: Sure but that goes against the conventions for iff theorems

Comment (b-mehta) [reply Mathlib/Logic/Function/Const.lean]: I think the usual convention is that way because the variable can usually be inferred from the lhs, so this instance is either not covered by the convention, or a good reason to violate it. So I agree with Aaron that making `f` explicit would be a good idea. 
Alternatively, it could make more sense to swap the direction of the lemma?

Comment (SnirBroshi) [reply Mathlib/Logic/Function/Const.lean]:
```suggestion
theorem subsingleton_iff_isConst_and_injective (f : α → β) :
```
I think making implicit and swapping the direction should be independent choices, since it's easy to rewrite/apply in reverse.

Should we swap? I chose this direction because the bottom two lemmas seemed more useful for the reverse direction, but it's kind of a random reason. Both directions are useless for `simp` (one can't guess `f`, the other needs the `And` to match exactly).

Comment (b-mehta) [reply Mathlib/Logic/Function/Const.lean]: I think the bottom two lemmas are the right way round and this one is the wrong way round. But I don't have strong feelings here.

File: Mathlib/Logic/Function/Const.lean [hunk 2]
```diff
@@ -116,4 +116,19 @@ theorem _root_.Setoid.ker_eq_top {α β : Type*} {f : α → β} :
...
+@[simp]
+theorem _root_.Set.subsingleton_range_iff {β : Type*} {f : α → β} :
+    (Set.range f).Subsingleton ↔ f.IsConst := by
+  simp [Set.Subsingleton, isConst_iff]
+
+theorem isConst_and_injective_iff (f : α → β) : f.IsConst ∧ f.Injective ↔ Subsingleton α where
+  mp := fun ⟨hc, hinj⟩ ↦ ⟨(hinj <| hc · ·)⟩
+  mpr _ := ⟨.of_subsingleton_domain f, injective_of_subsingleton f⟩
+
+theorem IsConst.injective_iff {f : α → β} (h : f.IsConst) : f.Injective ↔ Subsingleton α := by
```
Comment (themathqueen) [inline Mathlib/Logic/Function/Const.lean:128]: can you also add the surjective version?
```lean
theorem IsConst.surjective_iff [Nonempty α] {f : α → β} (h : f.IsConst) :
    f.Surjective ↔ Subsingleton β :=
  ⟨fun hf ↦ ⟨hf.forall₂.mpr h.eq⟩, fun _ ↦ surjective_to_subsingleton f⟩
```

File: Mathlib/Logic/Function/Const.lean [hunk 3]
```diff
@@ -116,4 +116,19 @@ theorem _root_.Setoid.ker_eq_top {α β : Type*} {f : α → β} :
...
+  simp [← f.isConst_and_injective_iff, h]
+
+theorem Injective.isConst_iff {f : α → β} (h : f.Injective) : f.IsConst ↔ Subsingleton α := by
```
Comment (themathqueen) [inline Mathlib/Logic/Function/Const.lean:131]: for this one too:
```lean
theorem Surjective.isConst_iff {f : α → β} (h : Surjective f) : IsConst f ↔ Subsingleton β :=
  ⟨fun hf ↦ ⟨h.forall₂.2 hf.eq⟩, fun _ ↦ .of_subsingleton_codomain f⟩
```

File: Mathlib/Logic/Function/Const.lean [hunk 4]
```diff
@@ -116,4 +116,38 @@ theorem _root_.Setoid.ker_eq_top {α β : Type*} {f : α → β} :
...
+    f.IsConst ∧ f.Surjective ↔ IsEmpty β ∨ Nonempty α ∧ Subsingleton β where
+  mp := fun ⟨hc, hsurj⟩ ↦
+    isEmpty_or_nonempty α |>.imp (@hsurj.isEmpty α β) (⟨·, ⟨hsurj.forall₂.mpr hc.eq⟩⟩)
+  mpr h := h.elim (fun _ ↦ ⟨.of_subsingleton_codomain f, .of_isEmpty f⟩)
+    (fun ⟨_, _⟩ ↦ ⟨.of_subsingleton_codomain f, surjective_to_subsingleton f⟩)
+
+theorem isConst_and_surjective_iff' [Nonempty α] (f : α → β) :
+    f.IsConst ∧ f.Surjective ↔ Subsingleton β where
+  mp := fun ⟨hc, hsurj⟩ ↦ ⟨hsurj.forall₂.mpr hc.eq⟩
+  mpr _ := ⟨.of_subsingleton_codomain f, surjective_to_subsingleton f⟩
```
Comment (themathqueen) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
    f.IsConst ∧ f.Surjective ↔ Subsingleton β := by
  simp +contextual [isConst_and_surjective_iff, *, IsEmpty.instSubsingleton]
```

File: Mathlib/Logic/Function/Const.lean [hunk 5]
```diff
@@ -116,4 +116,38 @@ theorem _root_.Setoid.ker_eq_top {α β : Type*} {f : α → β} :
...
+  simp [← f.isConst_and_injective_iff, h]
+
+theorem isConst_and_surjective_iff (f : α → β) :
+    f.IsConst ∧ f.Surjective ↔ IsEmpty β ∨ Nonempty α ∧ Subsingleton β where
+  mp := fun ⟨hc, hsurj⟩ ↦
+    isEmpty_or_nonempty α |>.imp (@hsurj.isEmpty α β) (⟨·, ⟨hsurj.forall₂.mpr hc.eq⟩⟩)
+  mpr h := h.elim (fun _ ↦ ⟨.of_subsingleton_codomain f, .of_isEmpty f⟩)
+    (fun ⟨_, _⟩ ↦ ⟨.of_subsingleton_codomain f, surjective_to_subsingleton f⟩)
+
+theorem isConst_and_surjective_iff' [Nonempty α] (f : α → β) :
```
Comment (b-mehta) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
theorem isConst_and_surjective_iff_of_nonempty [Nonempty α] (f : α → β) :
```
if you want to avoid the prime

Comment (themathqueen) [reply Mathlib/Logic/Function/Const.lean]: (fixed the suggestion, since you accidentally removed the hypothesis 👀)

Comment (b-mehta) [reply Mathlib/Logic/Function/Const.lean]: (thanks!)

File: Mathlib/Logic/Function/Const.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Logic/Function/Const.lean]: I don't think we should pass an autogenerated instance name into `simp`, that smells like trouble

Comment (themathqueen) [reply Mathlib/Logic/Function/Const.lean]: Yeah, definitely. I think this might be a reason to give it a name then? (you can keep the original name `IsEmpty.instSubsingleton` or `IsEmpty.subsingleton`?)

**Review by themathqueen — APPROVED** [review]

File: Mathlib/Basic/IsEmpty/Defs.lean [hunk 6]
```diff
@@ -130,7 +130,7 @@ theorem exists_iff {p : α → Prop} : (∃ a, p a) ↔ False :=
   iff_false_intro fun ⟨x, _⟩ ↦ IsEmpty.false x
 
 -- see Note [lower instance priority]
-instance (priority := 100) : Subsingleton α :=
+instance (priority := 100) subsingleton : Subsingleton α :=
```
Comment (themathqueen) [inline Mathlib/Basic/IsEmpty/Defs.lean]: protected?

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/Basic/IsEmpty/Defs.lean (hunk 6 above)
Comment (SnirBroshi) [reply Mathlib/Basic/IsEmpty/Defs.lean]:
```suggestion
protected instance (priority := 100) subsingleton : Subsingleton α :=
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
